US07687491B2
(26b) Methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the reaction similar to that mentioned in Example 23 (23g) using {5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol (0.18 g, 0.54 mmol) that was obtained in Example 26 (26a), carbon tetrabromide (0.36 g, 1.1 mmol), triphenylphosphine (0.28 g, 1.1 mmol), methyl 3-azetidinecarboxylate hydrochloride (0.12 g, 0.81 mmol), and N,N-diisopropylethylamine (0.28 mL, 1.6 mmol). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:1 to 3:1) as the eluent to afford the title compound (0.15 g) in a yield of 61% as a white crystalline solid.

reactant | {5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methanol | 0.54 mmol, 0.18 g | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CO | C18H18ClN3O2
reactant | carbon tetrabromide | 1.1 mmol, 0.36 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 1.1 mmol, 0.28 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-azetidinecarboxylate hydrochloride | 0.81 mmol, 0.12 g | Cl.N1CC(C1)C(=O)OC
reactant | N,N-diisopropylethylamine | 1.6 mmol, 0.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Methyl 1-({5-[5-(3-chloro-4-isobutylphenyl)-1,2,4-oxadiazol-3-yl]pyridin-2-yl}methyl)azetidine-3-carboxylate | ClC=1C=C(C=CC1CC(C)C)C1=NC(=NO1)C=1C=CC(=NC1)CN1CC(C1)C(=O)OC | C23H25ClN4O3
